US08076358B2
Step E: 3-[5-(3-[1,3]-Dioxan-2-yl-phenylsulfanyl)-2-nitro-phenyl]-2-(tetrahydro-Pyran-4-ylmethyl)-acrylonitrile
3-(5-Fluoro-2-nitro-phenyl)-2-(tetrahydro-pyran-4-ylmethyl)-acrylonitrile (1.2 g, 4.07 mmol) and 3-[1,3]dioxan-2-yl-benzenethiol (0.8 g, 4.07 mmol) were added to a mixture of Cs2CO3 (2.78 g, 8.56 mmol) in DMF (100 mL). The resulting mixture was stirred at room temperature overnight, then diluted with ethyl acetate and washed with H2O. The organic phase was separated, dried with MgSO4, and filtered. The solvent was removed to yield an oil, which was purified by silica column chromatography (40% EtOAc/heptane) to yield an oil.

reactant | 3-(5-Fluoro-2-nitro-phenyl)-2-(tetrahydro-pyran-4-ylmethyl)-acrylonitrile | 4.07 mmol, 1.2 g | FC=1C=CC(=C(C1)C=C(C#N)CC1CCOCC1)[N+](=O)[O-] | C15H15FN2O3
reactant | 3-[1,3]dioxan-2-yl-benzenethiol | 4.07 mmol, 0.8 g | O1C(OCCC1)C=1C=C(C=CC1)S | C10H12O2S
reactant | Cs2CO3 | 8.56 mmol, 2.78 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[5-(3-[1,3]-Dioxan-2-yl-phenylsulfanyl)-2-nitro-phenyl]-2-(tetrahydro-Pyran-4-ylmethyl)-acrylonitrile | O1C(OCCC1)C=1C=C(C=CC1)SC=1C=CC(=C(C1)C=C(C#N)CC1CCOCC1)[N+](=O)[O-] | C25H26N2O5S
